US04910644
To demonstrate that the reactions involved above are, in fact, clean and very nearly quantitative as claimed, the experiments described below were carried out. Succinic anhydride (10 g.; 0.1 mole) was dissolved with magnetic stirring in NMP (100 ml.). Conc. ammonium hydroxide (15 ml; 0.225 mole) was added dropwise with stirring. After the addition, the stirring was continued for 3 hours, and the product precipitated during this period. The mixture was cooled, stirring was continued, and ether (100 ml.) was added dropwise. This was done to ensure complete precipitation of the product. The reaction was refrigerated overnight and on filtration yields 13.4 g (100% yield) of ammonium succinamate; m.p., 112°-120°. A sample recrystallized from methanol had m.p., 108°-118°. Anal: for ammonium succinate C4H10N2O3 : calc. N, 20.88%; found N, 20.38%, 20.30%.

reactant | Succinic anhydride | 0.1 mole, 10 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | ammonium hydroxide | 0.225 mole, 15 ml | [OH-].[NH4+]
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
product | ammonium succinamate | 13.4 g, 100% yield | C(CCC(=O)N)(=O)[O-].[NH4+] | InChI=1S/C4H7NO3.H3N/c5-3(6)1-2-4(7)8;/h1-2H2,(H2,5,6)(H,7,8);1H3
